US07232821B2
b) 3-{2-[2-(benzyloxy)-phenyl]cyclopent-1-enyl]-benzoic acid
3-[2-(2-Benzyloxyphenyl)-cyclopent-1-enyl] benzoic acid ethyl ester (120 mg) was refluxed for 1 h in methanol/2N sodium hydroxide (10/10 mL). The reaction mixture was then evaporated down to 3 mL on a rotary evaporator. 2N Hydrochloric acid was added. The product was extracted with dichloromethane (2×10 mL), dried over magnesium sulphate and evaporated down to an oil which solidified on standing (wt: 100 mg).

reactant | 3-[2-(2-Benzyloxyphenyl)-cyclopent-1-enyl] benzoic acid ethyl ester | 120 mg | C(C)OC(C1=CC(=CC=C1)C1=C(CCC1)C1=C(C=CC=C1)OCC1=CC=CC=C1)=O | C27H26O3
solvent | methanol | 2N, 10 mL | CO | CH4O
product | 3-{2-[2-(benzyloxy)-phenyl]cyclopent-1-enyl]-benzoic acid | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C1=C(CCC1)C=1C=C(C(=O)O)C=CC1 | C25H22O3
